US06486153B1
(b) 1-tert-Butoxycarbonyl-2-bromo-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole
tert-Butyllithium (28.1 ml of a 1.7 mol solution in pentane) was added slowly to a stirred solution of 1-tert-butoxycarbonyl-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole (15.0 g) in dry ether at −78° C. under a dry nitrogen atmosphere. During the addition the temperature was maintained below −65° C. The reaction was stirred at −78° C. for 45 min at which time 1,2-dibromotetrafluoroethane (6.24 ml) was added. The reaction mixture was then allowed to warm to room temperature over 18 h, after which time it was quenched with water (100 ml) and extracted into ether (250 ml). The organic layer was separated, washed with water (250 ml) and brine (250 ml), dried over MgSO4, filtered and the solvent removed under reduced pressure to give an orange oil. Purification by flash chromatography (SiO2; n-hexane/ethyl acetate 10:1) afforded the product as a pale yellow oil (7.12 g); 1H (250 MHz, CDCl3) δ1.50-2.00 (6H, br m), 1.61 (9H, s), 3.05 (2H, t, J=7.5 Hz), 3.43 (1H, m), 3.56 (1H, m), 3.74 (1H, m), 3.91 (1H, m), 4.61 (1H, t, J=2.5 Hz), 7.26 (2H, m), 7.54 (1H, d, J=5.0 Hz) and 8.07 (1H, d, J=5.0 Hz).

reactant | tert-Butyllithium | C(C)(C)(C)[Li]
reactant | 1-tert-butoxycarbonyl-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole | 15.0 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CCOC1OCCCC1 | C20H27NO4
reactant | 1,2-dibromotetrafluoroethane | 6.24 ml | BrC(C(Br)(F)F)(F)F | C2Br2F4
solvent | pentane | CCCCC | C5H12
solvent | ether | CCOCC | C4H10O
product | 1-tert-Butoxycarbonyl-2-bromo-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole | 7.12 g | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=CC=C12)CCOC1OCCCC1)Br | C20H26BrNO4
